US05866594
Synthesis of methyl 3-acetylamino-4,7-dimethylindole-2-carboxylate (compound 64)
A mixture of 0.6 g (2.75 mmol) of methyl 3-amino-4,7-dimethylindole-2-carboxylate, 0.22 ml (3.3 mmol) of pyridine and 15 ml of anhydrous THF was cooled to 0° C. 10 ml of a solution of 0.24 ml (3.3 mmol) of acetyl chloride in anhydrous THF was added dropwise over a period of 30 minutes. After completion of the addition, the reaction mixture was stirred for 30 minutes. The reaction mixture was poured into 200 ml of water and extracted with 30 ml of ethyl acetate three times. The ethyl acetate layers were combined, washed with 100 ml of water once, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to provide 200 mg of white crystals. Yield: 28%

reactant | methyl 3-amino-4,7-dimethylindole-2-carboxylate | 2.75 mmol, 0.6 g | NC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C12H14N2O2
reactant | pyridine | 3.3 mmol, 0.22 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 3.3 mmol, 0.24 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 200 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | methyl 3-acetylamino-4,7-dimethylindole-2-carboxylate | 200 mg, Yield: 28% | C(C)(=O)NC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C14H16N2O3
